US04225476
D(2)Preparation of Ethylene/Ethyl Acrylate/Ethylene Diacrylate/Maleic Anhydride Tetrapolymer
The procedure of D(1) above, was repeated except that 1.2 grams of ethylene diacrylate were used in place of the allyl acrylate. Yield: 479 grams. The branched tetrapolymer obtained had about 50 mole percent of ethylene units. The polymer chain consisted principally of units -(E)-(B')-, where E is ethylene and B' is randomly selected from ethyl acrylate, ethylene diacrylate, and maleic anhydride (3.8 weight percent).

reactant | ethylene diacrylate | 1.2 grams | C(C=C)(=O)OCCOC(C=C)=O | C8H10O4
reactant | allyl acrylate | C(C=C)(=O)OCC=C | C6H8O2
reactant | ethylene | C=C | C2H4
reactant | ethyl acrylate | C(C=C)(=O)OCC | C5H8O2
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
product | Ethylene/Ethyl Acrylate Ethylene Diacrylate Maleic Anhydride | C=C.C(C=C)(=O)OCC.C(C=C)(=O)OCCOC(C=C)=O.C1(\C=C/C(=O)O1)=O | InChI=1S/C8H10O4.C5H8O2.C4H2O3.C2H4/c1-3-7(9)11-5-6-12-8(10)4-2;1-3-5(6)7-4-2;5-3-1-2-4(6)7-3;1-2/h3-4H,1-2,5-6H2;3H,1,4H2,2H3;1-2H;1-2H2
